Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Altered mental status, Hyponatremia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ with PMH HTN, HLD, anxiety, osteoporosis
who presented from OSH after findings of hyponatremia at ___'s
office.  

Per history from patient and family, her symptoms began about 6
months ago when she started becoming very cautious about her 
diet
because of her hypertension and hyperlipidemia. This slowly
progressed to anxiety surrounding food and she developed food
aversion and loss of appetite. Over this time she started having
worsening fatigue although has still been able to carry out ADLs
at home. She also noticed issues with her memory and states she
has on occasion left the stove on and forgetting to close doors
in her house. Her children who were present in the ED felt her
overall "functional status" has declined in the last ___ months.
Of note, patient has had several BP med changes in last few
months, including the addition of chlorthalidone ___ months ago. 


She was seen in her PCP's office this week who did basic labs 
and
was noted to have hyponatremia. She was given a normal saline
bolus as an outpatient but Na worsened so she was sent to the 
ED.
At ___, patient was found to have a Na of 129 with
otherwise normal labs. Her exam was notable for concern for
ataxia and a narrow-based gait. She had a CT head which showed
mild to moderately dilated ventricles and was transferred to
___ for neuro evaluation given concern for NPH.

At ___, vitals were stable on arrival. Repeat Na was 132. She
was evaluated by neurology who did an extensive mental status 
and
neurological exam which was notable for a narrow based slow gait
with absence of ataxia and normal mental status and memory.
Overall, it was felt that NPH was unlikely as clinical picture
does not fit. 

On arrival to the floor, patient states she is exhausted and 
just
wants to sleep. She confirms the above history. Currently denies
any headache, changes in vision, confusion, numbness, tingling,
or weakness.

REVIEW OF SYSTEMS:
==================
Per HPI, otherwise 10-point review of systems was negative.
 
Past Medical History:
- HTN
- HLD
- anxiety
- osteoporosis
 
Social History:
___
Family History:
Denies any family history of dementia, alzheimers, or other
neurodegenerative diseases. History of CAD in both mother and
father. Children are healthy with no known medical issues.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: ___ 0450 Temp: 98.4 PO BP: 129/78 L Lying HR: 81 
RR:
16 O2 sat: 97% O2 delivery: RA Dyspnea: 0 RASS: 0 Pain Score:
___ 
GENERAL: Thin, elderly woman in no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: 
Mental status: alert and oriented x3. Able to do month of year
backward without difficulty. Normal serial 7s. Pt declined doing
3 word recall but was done with neuro earlier. 
CN II-XII intact
Normal ___ strength throughout. Normal sensation throughout.
Normal FNF. Declined Romberg and gait testing.

DISCHARGE PHYSICAL EXAM:
========================
24 HR Data (last updated ___ @ 722)
    Temp: 97.8 (Tm 98.6), BP: 125/71 (98-164/60-76), HR: 88
(71-100), RR: 18 (___), O2 sat: 98% (97-99), O2 delivery: Ra  
GENERAL: Thin, elderly woman in no acute distress.  Sitting up 
at
the edge of bed unassisted.
HEENT: PERRL, EOMI.  No diplopia on extremes of gaze, no
nystagmus. Sclera anicteric and without injection.  MMM.
CARDIAC: Regular rhythm, normal rate. Normal S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: NABS.  Abdomen is soft, non distended, non-tender to
deep palpation in all four quadrants. 
EXTREMITIES: No clubbing, cyanosis, or edema. Posterior tibialis
pulses 2+ bilaterally.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: CN II-XII intact grossly, moving all extremities 
with
purpose
 
Pertinent Results:
ADMISSION LABS:
===============
___ 11:50PM BLOOD WBC-8.4 RBC-4.45 Hgb-13.3 Hct-37.7 MCV-85 
MCH-29.9 MCHC-35.3 RDW-12.8 RDWSD-39.0 Plt ___
___ 11:50PM BLOOD Neuts-67.3 ___ Monos-9.8 Eos-0.7* 
Baso-0.4 Im ___ AbsNeut-5.66 AbsLymp-1.80 AbsMono-0.82* 
AbsEos-0.06 AbsBaso-0.03
___ 06:05AM BLOOD ___ PTT-26.0 ___
___ 11:50PM BLOOD Glucose-102* UreaN-13 Creat-0.8 Na-132* 
K-3.7 Cl-96 HCO3-21* AnGap-15
___ 11:50PM BLOOD ALT-16 AST-16 AlkPhos-48 TotBili-0.6
___ 11:50PM BLOOD cTropnT-<0.01
___ 11:50PM BLOOD Albumin-4.2 Calcium-9.4 Phos-2.8 Mg-1.9
___ 06:05AM BLOOD VitB12-867
___ 11:50PM BLOOD Osmolal-261*
___ 06:05AM BLOOD TSH-0.89
___ 11:50PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

DISCHARGE LABS:
===============
___ 06:53AM BLOOD WBC-8.0 RBC-4.61 Hgb-13.7 Hct-41.1 MCV-89 
MCH-29.7 MCHC-33.3 RDW-13.2 RDWSD-42.8 Plt ___
___ 06:53AM BLOOD Glucose-95 UreaN-24* Creat-1.0 Na-133* 
K-4.1 Cl-94* HCO3-25 AnGap-14

MICRO:
======
none

IMAGING/STUDIES:
================
Head CT ___ ** ___ **
Ventricles are mild to moderately dilated, somewhat out of
proportion
to the cerebral sulci and fissures raising suspicion for normal
pressure hydrocephalus. Cerebral atrophy that is predominantly
central
also possible. No intracranial hemorrhage, midline shift or mass
effect. Cerebellar tonsils normally positioned. Bone windows
demonstrate no significant osseous abnormality. Imaged paranasal
sinuses and mastoid air cells are clear.

IMPRESSION:
1. NPH vs central cerebral atrophy. Clinical correlation and
further
breast is recommended if indicated.
2. No acute intracranial pathology identified.

CXR ___ ** ___ **
No prior exams.

Normal heart size and pulmonary vasculature. No infiltrates or
pleural
effusions. Mediastinal contour grossly unremarkable.

IMPRESSION: No acute disease.
 
Brief Hospital Course:
BRIEF SUMMARY:
==============
___ is a ___ with ___ HTN, HLD, anxiety, osteoporosis
who is admitted for hyponatremia 

ACUTE/ACTIVE ISSUES:
====================
# Hypoosmolar Hyponatremia
Na 129 at ___, improved to 132 at ___, but downtrended 
to 130 after receiving 1L IVF. Urine Na 68, consistent with 
sodium wasting (possibly diuretic effect). Uosm < Sosm, making a 
somewhat mixed picture - including low solute intake (poor 
dietary intake in setting of anxiety around eating a low-salt 
diet for her hypertension); diuretic use (chlorthalidone); and 
possibly SIADH (side effect of SSRI's, though unlikely to be a 
drastic contributor at such a low dose). Her chlorthalidone was 
held and she was encouraged to eat a regular diet with 
supplements. At time of discharge her chlorthalidone was held. 
She should have repeat BMP on ___ to ensure resolution of 
hyponatremia.

# Memory issues in setting of
# Anxiety 
Patient reports worsening memory over the past several months 
and notes at times has left stove on and forgot to close doors 
around her house. Her mental status exam here is otherwise 
unremarkable.
Suspect patient may have mild cognitive impairment and could 
would recommend formal neurocognitive testing as outpatient. 
Should she be unable to obtain quick follow-up with Cognitive 
Neurology, a referral to Occupational Therapy for home safety 
eval/cognitive evaluation would be beneficial. 

Patient was otherwise continued on her usual home anti-anxiety 
regimen of citalopram 5mg daily (recently started), to monitor 
for side effects while on this regimen.

# Possible NPH
# Unsteady gait
Concern for ataxia initially when presented to OSH. Neurology 
team evaluated and recommended further outpatient workup with LP 
and formal gait testing if symptoms persist after treatment of
hyponatremia. She was evaluated by physical therapy and while 
symptomatically orthostatic on initial evaluation, on day of 
discharge she was cleared for return home by ___. Outpatient 
Neurology followup for evaluation for NPH was recommended.

CHRONIC/STABLE ISSUES:
======================
# HTN
Her chlorthalidone was held during the admission and at 
discharge, as above. Her home lisinopril was reduced from 40 mg 
PO daily to 20 mg PO daily, given her symptomatic orthostasis 
during this admission.

# Osteoporosis
Previously on prolia but stopped 6 months ago. Continued home 
calcium/vitamin D

# Anxiety
Continued home citalopram

# HLD
Continued home atorvastatin and omega3

# Other medications
Continued home ASA 81mg (unclear indication as no known history 
of CAD).

TRANSITIONAL ISSUES:
====================
[] Her chlorthalidone was discontinued at time of discharge due 
to hyponatremia, and her lisinopril dose was reduced from 40 mg 
to 20 mg PO daily due to symptomatic orthostasis. Her outpatient 
providers should determine the timing and appropriateness of 
further titrating her antihypertensive regimen.
[] She should have repeat BMP on ___ to ensure resolution of 
her hyponatremia.
[] Consider referral for formal neurocognitive testing as 
outpatient, given her reported recent memory problems. If unable 
to obtain quick follow up with Cognitive Neurology (within 1 
month), would recommend Occupational Therapy follow up for 
cognitive evaluation and home safety.
[] Please consider Nutritionist referral given her presentation 
with hyponatremia and restrictive home diet. We liberalized her 
diet here, removing the strict sodium restriction Pt had placed 
on herself.
[] We recommend referral to Neurology for possible large volume 
lumbar puncture and gait testing, to evaluate for NPH.
[] Consider non-urgent MRI cervical spine, as her spastic gait 
and increased reflexes could be explained by cervical 
spondylosis.
[] The patient takes ASA 81 daily and the indication for this 
was unclear. If for primary prevention, please discuss the 
risk/benefit of continuing this medication with the patient.
[] Based on evaluation by physical therapy, the patient is at 
high risk for deconditioning. Please encourage frequent mobility 
and maximize independence in ADLs.
[] Please consider whether she would benefit from PRN low dose 
Ativan given her anxiety and episodic panic leading to 
agoraphobia.
[] Consider whether she may benefit from switching from 
citalopram to mirtazapine, due to decreased appetite.

# CODE: Full (presumed)
# ___
 Phone: ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 10 mg PO DAILY 
2. Fluticasone Propionate NASAL 1 SPRY NU BID 
3. Atorvastatin 10 mg PO QPM 
4. Chlorthalidone 25 mg PO DAILY 
5. Lisinopril 40 mg PO DAILY 
6. Fish Oil (Omega 3) 2400 mg PO DAILY 
7. Calcium Carbonate 500 mg PO DAILY 
8. Vitamin D 500 UNIT PO DAILY 
9. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Lisinopril 20 mg PO DAILY 
RX *lisinopril 20 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 10 mg PO QPM  
4.  Calcium Carbonate 500 mg PO DAILY  
5.  Citalopram 10 mg PO DAILY  
6.  Fish Oil (Omega 3) 2400 mg PO DAILY  
7.  Fluticasone Propionate NASAL 1 SPRY NU BID  
8.  Vitamin D 500 UNIT PO DAILY  
9.Outpatient Lab Work
ICD-10 code: ___.1 (hyponatremia)
Lab: BMP
Due: ___
Fax results to: ___ (Dr. ___ ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Hypoosmolar hyponatremia

Secondary diagnoses:
Unsteady gait
Impaired memory
Hypertension
Hyperlipidemia
Anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a privilege taking care of you at ___ 
___.  

WHY WAS I ADMITTED TO THE HOSPITAL?
===================================
Your blood sodium level was very low.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
==========================================
We performed blood and urine tests to determine the cause of 
your low blood sodium level. We believe that it was caused by 
one of your blood pressure medications ("chlorthalidone") and by 
eating a diet that is very low in salt. Your sodium blood level 
improved during your hospitalization.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
============================================  
- Stop taking chlorthalidone, and take a reduced amount of your 
lisinopril (lisinopril 20 mg by mouth daily).
- Eat a well balanced diet and drink supplements (such as 
Ensure) three times per day. There is no need to follow a very 
low sodium diet.
- Please continue to take all your medications and follow up 
with your doctors at your ___ appointments.  

We wish you all the best!

Sincerely,  
Your ___ Care Team  
 
Followup Instructions:
___